US07696234B2
[2-Fluoro-4-(4-fluoro-benzyloxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure B using (2-Fluoro-4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 4-fluorobenzyl bromide. MS (ES+) 401.2

reactant | (2-Fluoro-4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)O)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H21FN2O2
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | [2-Fluoro-4-(4-fluoro-benzyloxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)F)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C23H26F2N2O2
